US04101579
A solution of 5-(N,N-dibenzylglycyl)-o-anisamide (3.88g) in tetrahydrofuran (25 ml) and ethanol (125ml) was added to a pre-reduced suspension of 10% Pd/C (1.0g) in ethanol (25 ml). Uptake of hydrogen ceased within 14 hours. The catalyst was filtered off and the solvent evaporated under reduced pressure to leave 5-(2-amino-1-hydroxyethyl)-o-anisamide as a colourless gum.

reactant | 5-(N,N-dibenzylglycyl)-o-anisamide | 3.88g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)OC)CC1=CC=CC=C1 | C24H24N2O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethanol | 125ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.0g | [Pd] | Pd
product | 5-(2-amino-1-hydroxyethyl)-o-anisamide | NCC(O)C1=CC=C(C(C(=O)N)=C1)OC | C10H14N2O3
